US08633186B2
2-(5-(tert-butyldimethylsilyloxy)pentyloxy)-6-nitrobenzonitrile
Prepared as in Example 215c from 5-(tert-butyldimethyl-silyloxy)pentan-1-ol and 2,6-dinitrobenzonitrile as a pale yellow solid in 46% yield. MS 365 (MH+).

reactant | 5-(tert-butyldimethyl-silyloxy)pentan-1-ol | C(C)(C)(C)[Si](OCCCCCO)(C)C | C11H26O2Si
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(5-(tert-butyldimethylsilyloxy)pentyloxy)-6-nitrobenzonitrile | 46% yield | [Si](C)(C)(C(C)(C)C)OCCCCCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C18H28N2O4Si
